US05532112
2-(2-Aminoethylthio)thioxanthone (IIIb)
17.0 g. (0.15 mol) of cysteaminium chloride and 19.8 g. (0.3 mol) of potassium hydroxide are boiled for 3 hours on a water separator in 180 ml. of toluene. 24.6 g. (0.1 mol) of 2-chlorothioxanthone and 180 mol of dimethylpropyleneurea are added to the evaporated residue, and the mixture is stirred for 20 hours at 100° C. The reaction mixture is poured into 1 l of 2N hydrochloric acid and the aqueous phase is extracted with ethyl acetate. The aqueous phase then adjusted to pH 10 and extracted with ethyl acetate. Work-up of the organic phase gives 24.0 g. of the analytically pure compound IIIb.

reactant | cysteaminium chloride | 0.15 mol | C(CS)N.Cl
reactant | potassium hydroxide | 0.3 mol | [OH-].[K+]
reactant | 2-chlorothioxanthone | 0.1 mol | ClC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C13H7ClOS
reactant | dimethylpropyleneurea | 180 mol | CN1CCCN(C1=O)C | C6H12N2O
reactant | hydrochloric acid | 2N, 1 l | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(2-Aminoethylthio)thioxanthone | NCCSC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C15H13NOS2
